US06340759B1
The resulting 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl]isoquinolin-1-one (3.15 g) was reacted with phosphorus oxychloride (20 ml) according to the method of Example 10-2, to give 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl)-2-chloroisoquinoline. Then, N-ethylpiperazine (30 ml) and potassium carbonate (1.83 g) were added to the resulting compound as it was. The resulting mixture was reacted at 90° C. overnight. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and purified water. The ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, to give 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline.

reactant | 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl]isoquinolin-1-one | 3.15 g | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O)OC | C25H23NO4
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl)-2-chloroisoquinoline | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)C=1N(CC2=CC=CC=C2C1)Cl)OC | C25H24ClNO3
